US04978476
E. 4-(Benzoxazol-2-yl)tolyltriphenylphosphonium bromide (Compound B)
A stirred solution of 172.7 g (0.6 mole) of 2-(4-bromomethylphenyl)benzoxazole and 157.4 g (0.6 mole) of triphenylphosphine in xylene is heated at reflux for 19 hours. The product is then isolated by filtration, washed with additional portions of xylene, and dried.

reactant | 2-(4-bromomethylphenyl)benzoxazole | 0.6 mole, 172.7 g | BrCC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2 | C14H10BrNO
reactant | triphenylphosphine | 0.6 mole, 157.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 4-(Benzoxazol-2-yl)tolyltriphenylphosphonium bromide | [Br-].O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)C)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C32H25NOP.BrH/c1-24-21-22-25(32-33-29-19-11-12-20-30(29)34-32)23-31(24)35(26-13-5-2-6-14-26,27-15-7-3-8-16-27)28-17-9-4-10-18-28;/h2-23H,1H3;1H/q+1;/p-1
